US06677351B2
To a suspension of 1-(4-bromophenyl)piperazine hydrochloride (103.15 g, 371.59 mmol) in acetonitrile (1.5 L) at 0° C. under a nitrogen atmosphere was added a catalytic amount of 4-dimethylaminopyridine (4.54 g, 37.159 mmol) followed by triethylamine (155 mL, 1114.77 mmol) and di-tert-butyl dicarbonate (121.65 g, 557.385 mmol, dissolved in a minimum amount of acetonitrile) and the resulting reaction mixture was warmed to room temperature and stirred for 5.5 hours. The reaction mixture was filtered, ethyl acetate was added and the organic phase was washed with 10% aqueous citric acid, water (2×) and brine, then dried and evaporated to afford the crude 4-tert-Butyloxycarbonyl-1-(3-bromophenyl)piperazine product which was used as such in the next step.

reactant | 1-(4-bromophenyl)piperazine hydrochloride | 371.59 mmol, 103.15 g | Cl.BrC1=CC=C(C=C1)N1CCNCC1
reactant | triethylamine | 1114.77 mmol, 155 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | acetonitrile | 1.5 L | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 37.159 mmol, 4.54 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-tert-Butyloxycarbonyl-1-(3-bromophenyl)piperazine | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=CC=C1)Br | C15H21BrN2O2
